US08076516B2
To a suspension of methyltriphenylphosphonium bromide in THF is added KOBu-t (1 M in THF, 6.1 mmol) at room temperature. After stirring for 30 mins, tert-butyl 3-(3-(3-hydroxy-3-propylhexyl)phenyl)-3-oxopropylcarbamate is added. The resulting mixture is stirred at room temperature for 18 h. The reaction is quenched by the addition of AcOH. The mixture is filtered and concentrated under reduced pressure. Purification by flash chromatography (15 to 50% EtOAc-hexanes gradient) gives tert-butyl 3-(3-(3-hydroxy-3-propylhexyl)phenyl)but-3-enylcarbamate.

reactant | tert-butyl 3-(3-(3-hydroxy-3-propylhexyl)phenyl)-3-oxopropylcarbamate | OC(CCC=1C=C(C=CC1)C(CCNC(OC(C)(C)C)=O)=O)(CCC)CCC | C23H37NO4
reactant | THF | C1CCOC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-butyl 3-(3-(3-hydroxy-3-propylhexyl)phenyl)but-3-enylcarbamate | OC(CCC=1C=C(C=CC1)C(CCNC(OC(C)(C)C)=O)=C)(CCC)CCC | C24H39NO3
